US07531532B2
N-(4-Fluorophenyl)-N′-{4-[2-(cyclopropanecarbonylamino)pyridin-4-yloxy]-2-fluorophenyl}malonamide
N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]malonamide (21.3 mg) was dissolved in N,N-dimethylformamide (0.5 ml), and then triethylamine (0.030 ml) and cyclopropanecarbonyl chloride (0.010 ml) were added dropwise thereto under a nitrogen atmosphere at room temperature, followed by stirring for 1 hr. To the reaction mixture were added a 1 N aqueous solution of sodium hydroxide (1.0 ml) and methanol (1.0 ml), followed by stirring and extracting with ethyl acetate. The organic layer was concentrated under a reduced pressure to give a residue, which was purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, which was then dried in vacuum to provide the titled compound (9.6 mg, 39%) as white powder.

reactant | N-(4-Fluorophenyl)-N′-[4-(2-aminopyridin-4-yloxy)-2-fluorophenyl]malonamide | 21.3 mg | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)N)F)=O | C20H16F2N4O3
reactant | triethylamine | 0.030 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.010 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1.0 ml | CO | CH4O
product | N-(4-Fluorophenyl)-N′-{4-[2-(cyclopropanecarbonylamino)pyridin-4-yloxy]-2-fluorophenyl}malonamide | 9.6 mg, 39% | FC1=CC=C(C=C1)NC(CC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)NC(=O)C1CC1)F)=O | C24H20F2N4O4
